US04788195
1-[2-(3-Nitrophenoxy)ethyl]-1H-imidazole
After dissolving 3.74 g. of imidazole in 60 ml. of dry N,N-dimethylformamide, 1.78 g. of 50% sodium hydride in oil was added. When the effervescence had stopped (circa 1 hr.), 7.35 g. of 1-(2-chloroethoxy)-3-nitrobenzene was added. After stirring overnight, the reaction was concentrated under vacuum. Water was added to the residue and the product was extracted into chloroform. The product was extracted out of the chloroform layer with dilute hydrochloric acid. Next, the aqueous acid layer was neutralized with potassium carbonate and the oily product extracted into chloroform. Upon drying the chloroform extract with sodium sulfate, it was concentrated under vacuum to an oil which crystallized on standing. Recrystallization from isopropyl acetate gave 6.12 g. of product as the monohydrate, m.p. 52.5°-55.5° C.

reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | sodium hydride | [H-].[Na+]
reactant | 1-(2-chloroethoxy)-3-nitrobenzene | ClCCOC1=CC(=CC=C1)[N+](=O)[O-] | C8H8ClNO3
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-[2-(3-Nitrophenoxy)ethyl]-1H-imidazole | [N+](=O)([O-])C=1C=C(OCCN2C=NC=C2)C=CC1 | C11H11N3O3
